US07632838B2
A mixture of (R)-2-methyl-piperazine (1.0 g, 9.98 mmol), 5-bromo 2-cyanopyridine (1.66 g, 9.08 mmol), tris(dibenzylidineacetone)dipalladium (0) (83.15 mg, 0.0908 mmol), rac-2,2′-bis(diphenylphosphino)-1,1′-binaphtyl (169.37 mg, 0.272 mmol) and sodium tert-butoxide (1.09 g, 11.35 mmol) were charged to a microwave vial. Toluene (10.0 mL) was introduced under nitrogen atmosphere and the reaction mixture was irradiated at 110° C. for 35 minutes. Reaction was complete as determined by TLC. Reaction mixtures was diluted with dichloromethane, washed with water, saturated brine then dried over Na2SO4 and concentrated. The crude product was purified via flash column chromatography to yield 5-[(3R)-3-methylpiperazin-1-yl]pyridine-2-carbonitrile as brown color oil (1.15 g, 39.1% yield).

reactant | (R)-2-methyl-piperazine | 9.98 mmol, 1.0 g | C[C@H]1NCCNC1 | C5H12N2
reactant | 5-bromo 2-cyanopyridine | 9.08 mmol, 1.66 g | BrC=1C=CC(=NC1)C#N | C6H3BrN2
reactant | rac-2,2′-bis(diphenylphosphino)-1,1′-binaphtyl | 0.272 mmol, 169.37 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | sodium tert-butoxide | 11.35 mmol, 1.09 g | CC(C)([O-])C.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | Toluene | 10.0 mL | C1(=CC=CC=C1)C | C7H8
product | 5-[(3R)-3-methylpiperazin-1-yl]pyridine-2-carbonitrile | C[C@@H]1CN(CCN1)C=1C=CC(=NC1)C#N | C11H14N4
